US06949573B2
A mixture of 2-fluoro-4-hydroxy-benzonitrile (6 g, 43.8 mmol), palladium hydroxide (600 mg), ethanol (60 ml) and 2N hydrochloric acid (6 ml) was hydrogenated (60 psi) for 18 hours. The mixture was filtered through Arbocel® and the filter cake was washed with methanol and the filtrates were evaporated in-vacuo. The residue was triturated with diethylether to give 4-aminomethyl-3-fluoro phenol hydrochloride (4.71 g).

reactant | 2-fluoro-4-hydroxy-benzonitrile | 43.8 mmol, 6 g | FC1=C(C#N)C=CC(=C1)O | C7H4FNO
reactant | hydrochloric acid | 2N, 6 ml | Cl | ClH
catalyst | palladium hydroxide | 600 mg | [OH-].[Pd+2].[OH-]
solvent | ethanol | 60 ml | C(C)O | C2H6O
product | 4-aminomethyl-3-fluoro phenol hydrochloride | 4.71 g | Cl.NCC1=C(C=C(C=C1)O)F | InChI=1S/C7H8FNO.ClH/c8-7-3-6(10)2-1-5(7)4-9;/h1-3,10H,4,9H2;1H
